US07087601B2
A mixture of 2-[4-methyl-3-(trifluoromethyl)phenyl]-1,3-benzoxazole (600 mg, 2.2 mmol), n-bromosuccinimide (579 mg, 3.25 mmol), benzoyl peroxide (26 mg, 0.11 mmol) in carbon tetrachloride (15 mL) was refluxed for 3 h and then cooled to rt. The white precipitate was filtered and the filtrate was concentrated to dryness. The crude was purified by flash chromatography on silica gel eluting with EtOAc:hexanes (1:1) to afford 2-[4-(bromomethyl)-3-(trifluoromethyl)phenyl]-1,3-benzoxazole.

reactant | 2-[4-methyl-3-(trifluoromethyl)phenyl]-1,3-benzoxazole | 2.2 mmol, 600 mg | CC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)C(F)(F)F | C15H10F3NO
reactant | n-bromosuccinimide | 3.25 mmol, 579 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.11 mmol, 26 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-[4-(bromomethyl)-3-(trifluoromethyl)phenyl]-1,3-benzoxazole | BrCC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)C(F)(F)F | C15H9BrF3NO
